US04272438
52.6% g (0.520 moles; purity 100%) of triethylamine were added to a stirred suspension of 18.0 g (0.300 moles; purity 100%) of urea and 43.2 g (0.198 moles; purity 99.0%) of 6-aminopenicillanic acid in 390 ml of methylene chloride at 20° C. Then 60.5 g (0.540 moles; purity 97.1%) of trimethylchlorosilane were added over 15 minutes, maintaining the temperature at 20° C. After 30 minutes of stirring, the temperature was raised to 40° C., and held for 60 minutes. The white suspension was cooled to -30° C., and 59.1 g (0.198 moles; purity 97.4%) of 3-(2',6'-dichlorophenyl)-5-methyl-4-isoxazolyl chloride were added; the temperature was allowed to increase to 0° C. and held at this value for a total time of 130 minutes. The suspension was added to a mixture of 180 ml of water and 390 ml of acetone, pre-cooled at 0° C. The aqueous layer was separated and discarded, and the organic layer was washed with 180 ml of water. The aqueous layer was separated and discarded, and the organic layer was dried over 50 g of anhydrous sodium sulphate. The product was precipitated as sodium salt monohydrate by addition of 0.200 moles of sodium 2-ethyl-hexanoate as a 1 N solution in acetone. The product was filtered off, washed with 450 ml of acetone and dried in an oven at 40° C. to yield 93.0 g of sodium dicloxacillin monohydrate (91.2% of the theoretical amount), as a white, crystalline powder. Water content 3.7%; spectrophotometric assay 98.3% on the anhydrous basis; specific rotation +133° on the anhydrous basis.

reactant | triethylamine | 0.520 moles | C(C)N(CC)CC | C6H15N
reactant | urea | 0.300 moles, 18.0 g | NC(=O)N | CH4N2O
reactant | 6-aminopenicillanic acid | 0.198 moles, 43.2 g | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)N)C(=O)O)C | C8H12N2O3S
reactant | trimethylchlorosilane | 0.540 moles, 60.5 g | C[Si](Cl)(C)C | C3H9ClSi
reactant | 3-(2',6'-dichlorophenyl)-5-methyl-4-isoxazolyl chloride | 0.198 moles, 59.1 g | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1Cl)C | C10H6Cl3NO
reactant | sodium | [Na] | Na
reactant | sodium 2-ethyl-hexanoate | 0.200 moles | C(C)C(C(=O)[O-])CCCC.[Na+]
solvent | methylene chloride | 390 ml | C(Cl)Cl | CH2Cl2
solvent | acetone | CC(=O)C | C3H6O
solvent | acetone | 390 ml | CC(=O)C | C3H6O
solvent | water | 180 ml | O | H2O
product | sodium dicloxacillin monohydrate | 93.0 g | CC1=C(C(=NO1)C2=C(C=CC=C2Cl)Cl)C(=O)N[C@H]3[C@@H]4N(C3=O)[C@H](C(S4)(C)C)C(=O)[O-].O.[Na+] | InChI=1S/C19H17Cl2N3O5S.Na.H2O/c1-7-10(12(23-29-7)11-8(20)5-4-6-9(11)21)15(25)22-13-16(26)24-14(18(27)28)19(2,3)30-17(13)24;;/h4-6,13-14,17H,1-3H3,(H,22,25)(H,27,28);;1H2/q;+1;/p-1/t13-,14+,17-;;/m1../s1
